US06046201
12-Bromododecanol
To 30.25 g of 1,12-dodecanediol were added 350 ml of toluene and 52 ml of 48% hydrobromic acid and the mixture was heated under reflux under azeotropic condition for 2 hours. The reaction solution was cooled and the starting material precipitated out was filtered off. The filtrate was distilled and recrystallized from hexane to afford 30.2 g of the title compound as a crystal.

reactant | 1,12-dodecanediol | 30.25 g | C(CCCCCCCCCCCO)O | C12H26O2
reactant | hydrobromic acid | 52 ml | Br | BrH
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | 12-Bromododecanol | 30.2 g | BrCCCCCCCCCCCCO | C12H25BrO
